US09447097B2
a) 5-Amino-2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazole-4-carbonitrile
Triethylamine (5.28 ml, 37.9 mmol) was added with stirring to a suspension of 2-aminomalononitrile 4-methylbenzenesulfonate (8 g, 31.6 mmol) in THF (120 ml) to give a light brown solution. 1,1,1,2-Tetraethoxyethane (7.82 g, 37.9 mmol) was added and the reaction mixture was stirred under argon at reflux temperature. After 4 h an additional amount of 2.3 g 1,1,1,2-tetraethoxyethane was added and the mixture heated for another 2 h. The mixture was allowed to cool to room temperature, triethylamine (5.28 ml, 37.9 mmol) and 1-amino-2-methylpropan-2-ol (3.63 ml, 37.9 mmol) were added and the reaction was stirred overnight. The mixture was concentrated in vacuo, and the residue was partitioned between ethyl acetate (200 mL, 2×150 mL) and sodium bicarbonate solution (2 M, 100 mL). The organic phases were combined, dried over MgSO4, concentrated in vacuo and purified by flash chromatography (silica gel, 0% to 100% ethyl acetate in heptane) to give the title compound after a crystallization step from heptane (4.47 g, 59%) as white crystalline solid; LC-MS (UV peak area, ESI) 100%, 239.1514 (MH+).

reactant | Triethylamine | 37.9 mmol, 5.28 ml | C(C)N(CC)CC | C6H15N
reactant | 2-aminomalononitrile 4-methylbenzenesulfonate | 31.6 mmol, 8 g | CC1=CC=C(C=C1)S(=O)(=O)O.NC(C#N)C#N
reactant | 1,1,1,2-Tetraethoxyethane | 37.9 mmol, 7.82 g | C(C)OC(COCC)(OCC)OCC | C10H22O4
reactant | 1,1,1,2-tetraethoxyethane | 2.3 g | C(C)OC(COCC)(OCC)OCC | C10H22O4
reactant | triethylamine | 37.9 mmol, 5.28 ml | C(C)N(CC)CC | C6H15N
reactant | 1-amino-2-methylpropan-2-ol | 37.9 mmol, 3.63 ml | NCC(C)(O)C | C4H11NO
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 5-Amino-2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazole-4-carbonitrile | NC1=C(N=C(N1CC(C)(C)O)COCC)C#N | C11H18N4O2
